*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:23:58 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "EDFFTRXL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  EDFFTRXL D QN CK E RN Q
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D 2.16692e-16
*|P (D X 0 6.3000 1.0450)
*|I (Mmn1:g Mmn1 g X 0 6.4425 0.5875)
*|I (Mmp1:g Mmp1 g X 0 6.4625 1.0075)
*|S (D:2 6.4525 0.7950)
*|S (D:3 6.4050 0.7950)
C1 Mmp1:g VSS 2.88716e-17
C2 Mmn1:g VSS 2.7304e-17
C3 D:3 VSS 1.00579e-16
C4 D VSS 5.99379e-17
Rl1 D:2 D:3 48.174149 $W=0.094
Rl2 D:2 Mmn1:g 53.564674 $W=0.039
Rl3 Mmp1:g D:2 42.026211 $W=0.039
Rk4 D D:3 0.083191 $W=0.185
*
*|NET QN 7.06965e-17
*|P (QN X 0 0.1000 0.6650)
*|I (Mmn57:d Mmn57 d X 0 0.2825 0.5875)
*|I (Mmp57:d Mmp57 d X 0 0.2825 1.0075)
*|S (QN:3 0.2550 0.6000)
C5 Mmp57:d VSS 1.57713e-17
C6 Mmn57:d VSS 3.37505e-17
C7 QN VSS 2.11747e-17
Rk5 QN:3 QN 0.073478 $W=0.13
Rk6 Mmn57:d QN:3 75.000000 $W=0.1
Rk7 Mmp57:d QN:3 62.224415 $W=0.1
*
*|NET CK 2.39693e-16
*|P (CK X 0 1.1000 0.6650)
*|I (Mmn20:g Mmn20 g X 0 1.1875 0.5875)
*|I (Mmp20:g Mmp20 g X 0 1.1875 1.0075)
*|S (CK:2 1.1875 0.7600)
*|S (CK:3 1.1350 0.7600)
C8 Mmp20:g VSS 4.22383e-17
C9 Mmn20:g VSS 2.89943e-17
C10 CK:3 VSS 1.18897e-16
C11 CK VSS 4.95642e-17
Rl8 CK:2 CK:3 45.516560 $W=0.094
Rl9 CK:2 Mmn20:g 34.329510 $W=0.039
Rl10 Mmp20:g CK:2 49.714123 $W=0.039
Rk11 CK:3 CK 0.054751 $W=0.1
*
*|NET E 4.55499e-16
*|P (E X 0 5.9000 0.8550)
*|I (Mmn6:g Mmn6 g X 0 5.4925 0.3275)
*|I (Mmn0:g Mmn0 g X 0 6.1975 0.5875)
*|I (Mmp6:g Mmp6 g X 0 5.3875 1.0875)
*|I (Mmp0:g Mmp0 g X 0 6.1975 1.0075)
*|S (E:2 5.4650 0.7950)
*|S (E:5 6.1975 0.7675)
*|S (E:6 5.9050 0.7950)
C12 Mmp0:g VSS 3.83767e-17
C13 Mmp6:g VSS 4.02709e-17
C14 Mmn0:g VSS 2.64686e-17
C15 Mmn6:g VSS 6.87278e-17
C16 E:5 VSS 2.12177e-17
C17 E:2 VSS 1.46795e-16
C18 E:6 VSS 9.11226e-17
C19 E VSS 2.25194e-17
Rl12 E:5 E:6 137.680969 $W=0.039
Rl13 Mmn6:g E:2 134.410446 $W=0.039
Rl14 E:5 Mmn0:g 39.618149 $W=0.039
Rl15 E:2 Mmp6:g 63.438728 $W=0.039
Rl16 Mmp0:g E:5 49.233532 $W=0.039
Rk17 E E:6 0.029034 $W=0.13
Rk18 E:6 E:2 45.268368 $W=0.1
*
*|NET RN 2.27034e-16
*|P (RN X 0 4.5000 1.0450)
*|I (Mmn2:g Mmn2 g X 0 4.3125 0.4125)
*|I (Mmp2:g Mmp2 g X 0 4.3125 1.0875)
*|S (RN:2 4.3500 0.8800)
C20 Mmp2:g VSS 3.47521e-17
C21 Mmn2:g VSS 3.66225e-17
C22 RN:2 VSS 9.6199e-17
C23 RN VSS 5.94607e-17
Rl19 RN:2 Mmn2:g 137.694366 $W=0.039
Rl20 Mmp2:g RN:2 24.232828 $W=0.039
Rk21 RN RN:2 45.168877 $W=0.1
*
*|NET Q 1.18319e-16
*|P (Q X 0 0.9000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 0.9000 0.5875)
*|I (Mmp55:d Mmp55 d X 0 0.9000 1.0075)
C24 Mmp55:d VSS 5.17077e-17
C25 Mmn55:d VSS 3.24294e-17
C26 Q VSS 3.41818e-17
Rk22 Q Mmn55:d 75.050941 $W=0.1
Rk23 Q Mmp55:d 62.176804 $W=0.1
*
*|NET qint 2.06186e-16
*|I (Mmn57:g Mmn57 g X 0 0.3925 0.5875)
*|I (Mmn56:d Mmn56 d X 0 0.6800 0.5875)
*|I (Mmp57:g Mmp57 g X 0 0.3925 1.0075)
*|I (Mmp56:d Mmp56 d X 0 0.6800 1.0075)
*|S (qint:1 0.4450 0.7600)
*|S (qint:2 0.3925 0.7600)
*|S (qint:6 0.6800 0.7700)
C27 Mmp56:d VSS 2.28015e-17
C28 Mmp57:g VSS 3.79462e-17
C29 Mmn56:d VSS 2.54322e-17
C30 Mmn57:g VSS 3.10119e-17
C31 qint:6 VSS 2.72793e-17
C32 qint:2 VSS 1.25457e-17
C33 qint:1 VSS 4.91694e-17
Rl24 qint:1 qint:2 45.521347 $W=0.094
Rl25 qint:2 Mmn57:g 34.329510 $W=0.039
Rl26 qint:2 Mmp57:g 49.714123 $W=0.039
Rk27 qint:6 qint:1 0.119162 $W=0.1
Rk28 qint:6 Mmn56:d 75.105583 $W=0.1
Rk29 Mmp56:d qint:6 62.117573 $W=0.1
*
*|NET qbint 1.27711e-15
*|I (Mmn56:g Mmn56 g X 0 0.5875 0.5875)
*|I (Mmn55:g Mmn55 g X 0 0.9925 0.5875)
*|I (Mmn45:d Mmn45 d X 0 1.5300 0.5875)
*|I (Mmn50:g Mmn50 g X 0 1.8675 0.5875)
*|I (Mmn5:g Mmn5 g X 0 4.8775 0.4125)
*|I (Mmp56:g Mmp56 g X 0 0.5875 1.0075)
*|I (Mmp55:g Mmp55 g X 0 0.9925 1.0075)
*|I (Mmp45:d Mmp45 d X 0 1.5400 1.1375)
*|I (Mmp50:g Mmp50 g X 0 1.8975 1.1375)
*|I (Mmp5:g Mmp5 g X 0 4.7775 1.0875)
*|S (qbint:2 0.9925 0.7375)
*|S (qbint:3 0.5875 0.7375)
*|S (qbint:6 0.9550 1.2150)
*|S (qbint:10 1.8600 1.3450)
*|S (qbint:13 4.7350 1.3100)
*|S (qbint:14 1.9150 1.2975)
*|S (qbint:15 1.5000 0.9650)
*|S (qbint:17 1.5100 1.0900)
C34 Mmp5:g VSS 5.57319e-17
C35 Mmp50:g VSS 6.28842e-17
C36 Mmp45:d VSS 4.36861e-17
C37 Mmp55:g VSS 2.39768e-17
C38 Mmp56:g VSS 3.59089e-17
C39 Mmn5:g VSS 1.06147e-16
C40 Mmn50:g VSS 8.02733e-17
C41 Mmn45:d VSS 5.03417e-17
C42 Mmn55:g VSS 2.59914e-17
C43 Mmn56:g VSS 2.68202e-17
C44 qbint:15 VSS 7.4683e-17
C45 qbint:3 VSS 3.71043e-17
C46 qbint:2 VSS 3.0571e-17
C47 qbint:6 VSS 8.30469e-17
C48 qbint:10 VSS 3.06619e-16
C49 qbint:13 VSS 2.33324e-16
Rl30 qbint:2 qbint:3 141.670685 $W=0.039
Rl31 qbint:3 Mmn56:g 28.079685 $W=0.039
Rl32 Mmn55:g qbint:2 28.079685 $W=0.039
Rl33 qbint:3 Mmp56:g 60.771992 $W=0.039
Rl34 Mmp55:g qbint:6 69.232826 $W=0.039
Rl35 qbint:2 Mmp55:g 60.771992 $W=0.039
Rl36 Mmp50:g qbint:10 69.232826 $W=0.039
Rl37 Mmn50:g Mmp50:g 145.073471 $W=0.039
Rl38 Mmp5:g qbint:13 75.002060 $W=0.039
Rl39 Mmn5:g Mmp5:g 211.104111 $W=0.039
Rk40 qbint:13 qbint:14 1.954117 $W=0.0835
Rk41 qbint:14 qbint:10 0.043677 $W=0.145
Rk42 qbint:14 qbint:15 0.543279 $W=0.08
Rk43 qbint:17 qbint:6 0.421031 $W=0.08
Rk44 qbint:15 qbint:17 0.079845 $W=0.1
Rk45 qbint:15 Mmn45:d 75.276138 $W=0.08
Rk46 Mmp45:d qbint:17 62.000000 $W=0.09
*
*|NET CKb 1.31408e-15
*|I (Mmn20:d Mmn20 d X 0 1.2800 0.5875)
*|I (Mmn51:g Mmn51 g X 0 1.9725 0.5875)
*|I (Mmn26:g Mmn26 g X 0 3.3425 0.5875)
*|I (Mmn21:g Mmn21 g X 0 3.7325 0.5875)
*|I (Mmp20:d Mmp20 d X 0 1.2825 1.0075)
*|I (Mmp40:g Mmp40 g X 0 2.2275 1.1375)
*|I (Mmp36:g Mmp36 g X 0 2.9475 1.1375)
*|I (Mmp21:g Mmp21 g X 0 3.7325 1.1375)
*|S (CKb:2 2.0000 0.2950)
*|S (CKb:4 2.2650 0.8900)
*|S (CKb:6 2.9750 0.9000)
*|S (CKb:8 3.3800 0.7600)
*|S (CKb:10 3.6950 0.7600)
*|S (CKb:12 2.9750 0.6100)
*|S (CKb:13 2.2650 0.4100)
*|S (CKb:14 2.0000 0.4100)
*|S (CKb:16 1.2900 0.5750)
C50 Mmp21:g VSS 4.86142e-17
C51 Mmp36:g VSS 6.3225e-17
C52 Mmp40:g VSS 3.9209e-17
C53 Mmp20:d VSS 6.29044e-17
C54 Mmn21:g VSS 3.42306e-17
C55 Mmn26:g VSS 5.25956e-17
C56 Mmn51:g VSS 7.86065e-17
C57 Mmn20:d VSS 1.02693e-16
C58 CKb:14 VSS 7.02361e-17
C59 CKb:13 VSS 9.93039e-17
C60 CKb:12 VSS 1.51318e-16
C61 CKb:2 VSS 5.44937e-17
C62 CKb:4 VSS 1.18814e-16
C63 CKb:6 VSS 9.88824e-17
C64 CKb:8 VSS 1.58435e-16
C65 CKb:10 VSS 8.05157e-17
Rl47 Mmn51:g CKb:2 116.845619 $W=0.039
Rl48 Mmn26:g CKb:8 69.232826 $W=0.039
Rl49 CKb:10 Mmn21:g 24.232828 $W=0.039
Rl50 Mmp40:g CKb:4 84.617447 $W=0.039
Rl51 Mmp36:g CKb:6 82.230240 $W=0.039
Rl52 Mmp21:g CKb:10 89.617439 $W=0.039
Rk53 CKb:10 CKb:8 45.232895 $W=0.09
Rk54 CKb:8 CKb:12 0.672730 $W=0.09
Rk55 CKb:12 CKb:6 0.228499 $W=0.08
Rk56 CKb:13 CKb:4 0.359307 $W=0.08
Rk57 CKb:12 CKb:13 0.635690 $W=0.08
Rk58 CKb:14 CKb:2 0.042873 $W=0.125
Rk59 CKb:13 CKb:14 0.213061 $W=0.09
Rk60 CKb:14 CKb:16 0.610720 $W=0.09
Rk61 Mmn20:d CKb:16 75.000000 $W=0.08
Rk62 CKb:16 Mmp20:d 62.311279 $W=0.08
*
*|NET n30 3.01126e-16
*|I (Mmn45:g Mmn45 g X 0 1.6525 0.5875)
*|I (Mmn51:d Mmn51 d X 0 2.0750 0.5875)
*|I (Mmp45:g Mmp45 g X 0 1.6525 1.1375)
*|I (Mmp51:d Mmp51 d X 0 2.1150 1.1375)
*|S (n30:2 1.6800 0.7700)
*|S (n30:5 2.1050 0.7700)
C66 Mmp51:d VSS 5.23474e-17
C67 Mmp45:g VSS 4.12816e-17
C68 Mmn51:d VSS 3.60315e-17
C69 Mmn45:g VSS 3.49951e-17
C70 n30:5 VSS 5.14445e-17
C71 n30:2 VSS 8.50258e-17
Rl63 n30:2 Mmn45:g 29.537926 $W=0.039
Rl64 Mmp45:g n30:2 87.230232 $W=0.039
Rk65 n30:5 n30:2 45.291286 $W=0.09
Rk66 n30:5 Mmn51:d 75.127396 $W=0.09
Rk67 Mmp51:d n30:5 62.246521 $W=0.08
*
*|NET net496 0
*|I (Mmn50:d Mmn50 d X 0 1.9200 0.5875)
*|I (Mmn51:s Mmn51 s X 0 1.9200 0.5875)
Rmw68 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET mout 3.98436e-16
*|I (Mmn40:s Mmn40 s X 0 2.3775 0.5875)
*|I (Mmn35:g Mmn35 g X 0 2.9075 0.5875)
*|I (Mmp40:s Mmp40 s X 0 2.4025 1.1375)
*|I (Mmp35:g Mmp35 g X 0 2.8425 1.1375)
*|S (mout:2 2.8425 0.7700)
*|S (mout:3 2.7850 0.7700)
*|S (mout:5 2.4250 0.7700)
C72 Mmp35:g VSS 7.4386e-17
C73 Mmp40:s VSS 4.97728e-17
C74 Mmn35:g VSS 5.34746e-17
C75 Mmn40:s VSS 4.40442e-17
C76 mout:5 VSS 5.59206e-17
C77 mout:2 VSS 4.0254e-17
C78 mout:3 VSS 8.05841e-17
Rl69 mout:2 mout:3 49.287018 $W=0.114
Rl70 Mmn35:g mout:2 38.616348 $W=0.039
Rl71 mout:2 Mmp35:g 82.533203 $W=0.039
Rk72 mout:3 mout:5 0.262267 $W=0.08
Rk73 mout:5 Mmn40:s 75.137932 $W=0.08
Rk74 mout:5 Mmp40:s 62.235527 $W=0.08
*
*|NET CKbb 6.29876e-16
*|I (Mmn40:g Mmn40 g X 0 2.1775 0.5875)
*|I (Mmn36:g Mmn36 g X 0 3.0125 0.5875)
*|I (Mmn21:d Mmn21 d X 0 3.8250 0.5875)
*|I (Mmp51:g Mmp51 g X 0 2.0025 1.1375)
*|I (Mmp26:g Mmp26 g X 0 3.2875 1.1375)
*|I (Mmp21:d Mmp21 d X 0 3.8250 1.1375)
*|S (CKbb:2 3.3250 0.9200)
*|S (CKbb:7 3.8850 0.9200)
C79 Mmp21:d VSS 3.36334e-17
C80 Mmp26:g VSS 3.18728e-17
C81 Mmp51:g VSS 9.8771e-17
C82 Mmn21:d VSS 4.61633e-17
C83 Mmn36:g VSS 1.12483e-16
C84 Mmn40:g VSS 1.07228e-16
C85 CKbb:7 VSS 5.56928e-17
C86 CKbb:2 VSS 1.44031e-16
Rl75 CKbb:2 Mmn36:g 166.427444 $W=0.039
Rl76 Mmn36:g Mmn40:g 459.181061 $W=0.039
Rl77 Mmn40:g Mmp51:g 174.131302 $W=0.039
Rl78 Mmp26:g CKbb:2 28.078981 $W=0.039
Rk79 CKbb:7 CKbb:2 45.394794 $W=0.09
Rk80 CKbb:7 Mmn21:d 75.221329 $W=0.09
Rk81 Mmp21:d CKbb:7 62.117077 $W=0.1
*
*|NET n20 3.63608e-16
*|I (Mmn30:g Mmn30 g X 0 2.5775 0.5875)
*|I (Mmn36:d Mmn36 d X 0 3.1775 0.5875)
*|I (Mmp30:g Mmp30 g X 0 2.5775 1.1375)
*|I (Mmp36:d Mmp36 d X 0 3.1175 1.1375)
*|S (n20:2 2.6150 0.9300)
*|S (n20:6 3.1350 1.1200)
C87 Mmp36:d VSS 8.67237e-17
C88 Mmp30:g VSS 3.08015e-17
C89 Mmn36:d VSS 8.41906e-17
C90 Mmn30:g VSS 4.47093e-17
C91 n20:2 VSS 1.17183e-16
Rl82 n20:2 Mmn30:g 89.617439 $W=0.039
Rl83 Mmp30:g n20:2 24.232828 $W=0.039
Rk84 n20:6 n20:2 45.481701 $W=0.08
Rk85 Mmn36:d n20:6 75.395737 $W=0.08
Rk86 Mmp36:d n20:6 62.000000 $W=0.08
*
*|NET net516 5.49529e-19
*|I (Mmn35:d Mmn35 d X 0 2.9600 0.5875)
*|I (Mmn36:s Mmn36 s X 0 2.9600 0.5875)
C92 Mmn35:d VSS 5.49529e-19
Rmw87 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET n21 0
*|I (Mmn26:s Mmn26 s X 0 3.4325 0.5875)
*|I (Mmn25:d Mmn25 d X 0 3.4325 0.5875)
Rmw88 Mmn25:d Mmn26:s 0.001000 $W=1
*
*|NET Dp 9.60249e-16
*|I (Mmn25:g Mmn25 g X 0 3.5225 0.5875)
*|I (Mmn3:d Mmn3 d X 0 4.7750 0.4125)
*|I (Mmn7:d Mmn7 d X 0 5.6900 0.3275)
*|I (Mmp25:g Mmp25 g X 0 3.4675 1.1375)
*|I (Mmp6:d Mmp6 d X 0 5.2950 1.0875)
*|I (Mmp7:d Mmp7 d X 0 5.6950 1.0875)
*|S (Dp:1 3.4850 0.4150)
*|S (Dp:6 4.7750 0.4250)
*|S (Dp:7 4.7975 0.5600)
*|S (Dp:8 5.2800 0.9750)
C93 Mmp7:d VSS 8.10531e-17
C94 Mmp6:d VSS 2.87588e-17
C95 Mmp25:g VSS 7.8591e-17
C96 Mmn7:d VSS 1.14492e-16
C97 Mmn3:d VSS 9.40669e-17
C98 Mmn25:g VSS 5.55903e-17
C99 Dp:8 VSS 1.16776e-16
C100 Dp:7 VSS 2.14878e-16
C101 Dp:1 VSS 1.76044e-16
Rl89 Dp:1 Mmn25:g 69.232826 $W=0.039
Rl90 Mmn25:g Mmp25:g 145.719498 $W=0.039
Rk91 Dp:7 Dp:1 1.218716 $W=0.08
Rk92 Dp:6 Dp:7 0.076758 $W=0.118
Rk93 Dp:7 Dp:8 0.647339 $W=0.08
Rk94 Mmn3:d Dp:6 75.000000 $W=0.08
Rk95 Mmn7:d Dp:6 75.768814 $W=0.08
Rk96 Dp:8 Mmp6:d 62.049603 $W=0.095
Rk97 Dp:8 Mmp7:d 62.317242 $W=0.08
*
*|NET RNb 3.72852e-16
*|I (Mmn2:d Mmn2 d X 0 4.2100 0.4125)
*|I (Mmn3:g Mmn3 g X 0 4.6725 0.4125)
*|I (Mmp2:d Mmp2 d X 0 4.1950 1.0875)
*|I (Mmp3:g Mmp3 g X 0 4.5725 1.0875)
*|S (RNb:2 4.6100 0.7200)
*|S (RNb:4 4.1600 0.7200)
C102 Mmp3:g VSS 5.55509e-17
C103 Mmp2:d VSS 4.45852e-17
C104 Mmn3:g VSS 3.57282e-17
C105 Mmn2:d VSS 4.85908e-17
C106 RNb:4 VSS 5.8536e-17
C107 RNb:2 VSS 1.29861e-16
Rl98 Mmn3:g RNb:2 93.946472 $W=0.039
Rl99 RNb:2 Mmp3:g 85.771294 $W=0.039
Rk100 RNb:2 RNb:4 45.325111 $W=0.08
Rk101 RNb:4 Mmn2:d 75.212425 $W=0.09
Rk102 RNb:4 Mmp2:d 62.229607 $W=0.09
*
*|NET n0 1.31823e-18
*|I (Mmn5:s Mmn5 s X 0 4.9300 0.4125)
*|I (Mmn4:d Mmn4 d X 0 4.9300 0.4125)
C108 Mmn5:s VSS 1.31823e-18
Rmw103 Mmn4:d Mmn5:s 0.001000 $W=1
*
*|NET Eb 4.77833e-16
*|I (Mmn4:g Mmn4 g X 0 4.9825 0.4125)
*|I (Mmn0:d Mmn0 d X 0 6.1050 0.5875)
*|I (Mmp4:g Mmp4 g X 0 4.9825 1.0875)
*|I (Mmp0:d Mmp0 d X 0 6.1050 1.0075)
*|S (Eb:2 5.0100 0.6350)
*|S (Eb:6 6.0950 0.6000)
C109 Mmp0:d VSS 5.45156e-17
C110 Mmp4:g VSS 4.94482e-17
C111 Mmn0:d VSS 1.2372e-16
C112 Mmn4:g VSS 4.7882e-17
C113 Eb:2 VSS 2.02267e-16
Rl104 Eb:2 Mmn4:g 44.922543 $W=0.039
Rl105 Mmp4:g Eb:2 119.922546 $W=0.039
Rk106 Eb:6 Eb:2 45.833897 $W=0.08
Rk107 Mmn0:d Eb:6 75.000000 $W=0.08
Rk108 Mmp0:d Eb:6 62.281746 $W=0.08
*
*|NET n1 1.30814e-18
*|I (Mmn6:d Mmn6 d X 0 5.5450 0.3275)
*|I (Mmn7:s Mmn7 s X 0 5.5450 0.3275)
C114 Mmn6:d VSS 1.30814e-18
Rmw109 Mmn7:s Mmn6:d 0.001000 $W=1
*
*|NET Db 4.02931e-16
*|I (Mmn7:g Mmn7 g X 0 5.5975 0.3275)
*|I (Mmn1:d Mmn1 d X 0 6.5450 0.5875)
*|I (Mmp7:g Mmp7 g X 0 5.5975 1.0875)
*|I (Mmp1:d Mmp1 d X 0 6.5550 1.0075)
*|S (Db:3 5.6350 1.2950)
*|S (Db:5 6.5650 0.9600)
C115 Mmp1:d VSS 1.12604e-16
C116 Mmp7:g VSS 6.09555e-17
C117 Mmn1:d VSS 3.15762e-17
C118 Mmn7:g VSS 8.37265e-17
C119 Db:3 VSS 1.14069e-16
Rl110 Mmp7:g Db:3 69.232826 $W=0.039
Rl111 Mmp7:g Mmn7:g 223.076920 $W=0.039
Rk112 Db:5 Db:3 0.870953 $W=0.08
Rk113 Db:5 Mmn1:d 75.256187 $W=0.09
Rk114 Mmp1:d Db:5 62.000000 $W=0.1
*
*|NET net411 2.30706e-18
*|I (Mmp50:d Mmp50 d X 0 1.9500 1.1375)
*|I (Mmp51:s Mmp51 s X 0 1.9500 1.1375)
C120 Mmp50:d VSS 2.30706e-18
Rmw115 Mmp51:s Mmp50:d 0.001000 $W=1
*
*|NET net427 9.1065e-19
*|I (Mmp35:d Mmp35 d X 0 2.8950 1.1375)
*|I (Mmp36:s Mmp36 s X 0 2.8950 1.1375)
C121 Mmp35:d VSS 9.1065e-19
Rmw116 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET n22 0
*|I (Mmp26:s Mmp26 s X 0 3.3775 1.1375)
*|I (Mmp25:d Mmp25 d X 0 3.3775 1.1375)
Rmw117 Mmp25:d Mmp26:s 0.001000 $W=1
*
*|NET n2 1.63237e-16
*|I (Mmp3:d Mmp3 d X 0 4.6750 1.0875)
*|I (Mmp4:s Mmp4 s X 0 5.0750 1.0875)
C122 Mmp4:s VSS 8.75512e-17
C123 Mmp3:d VSS 7.56859e-17
Rk118 Mmp4:s Mmp3:d 124.310783 $W=0.1
*
*|NET n3 1.62348e-16
*|I (Mmp5:d Mmp5 d X 0 4.8800 1.0875)
*|I (Mmp6:s Mmp6 s X 0 5.4925 1.0875)
C124 Mmp6:s VSS 7.91054e-17
C125 Mmp5:d VSS 8.32422e-17
Rk119 Mmp5:d Mmp6:s 124.470848 $W=0.09
*
*Instance Section
*
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02537P	AS=0.0519P	PD=0.64U	PS=1.6U
+ fw=1.45e-07 sa=1.75e-07 sb=3.35e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0519P	PD=0.57U	PS=1.6U
+ fw=1.45e-07 sa=3.7e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0519P	PD=0.57U	PS=1.6U
+ fw=1.45e-07 sa=1.4e-07 sb=3.35e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0519P	PD=0.57U	PS=1.6U
+ fw=1.45e-07 sa=3.35e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.029P	AS=0.0554P	PD=0.69U	PS=1.65U
+ fw=1.45e-07 sa=2e-07 sb=2e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.0554P	PD=0.41U	PS=1.65U
+ fw=1.45e-07 sa=4.15e-07 sb=2e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=5.2e-07 sb=1.9e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn40	Mmn51:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.05147P	PD=0.61U	PS=1U
+ fw=1.45e-07 sa=7.25e-07 sb=1.695e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn30	Mmn40:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.05147P	AS=0.05632P	PD=1U	PS=1.11U
+ fw=1.45e-07 sa=1.125e-06 sb=1.295e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.05632P	PD=0.41U	PS=1.11U
+ fw=1.45e-07 sa=1.455e-06 sb=9.65e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04132P	AS=0.0087P	PD=0.86U	PS=0.41U
+ fw=1.45e-07 sa=1.56e-06 sb=8.6e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn26	Mmn36:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04132P	AS=0.01957P	PD=0.86U	PS=0.56U
+ fw=1.45e-07 sa=1.89e-06 sb=5.3e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.01957P	AS=0.05407P	PD=0.56U	PS=1.63U
+ fw=1.45e-07 sa=2e-06 sb=3.5e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.05407P	PD=0.57U	PS=1.63U
+ fw=1.45e-07 sa=2e-06 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.04567P	PD=0.61U	PS=0.92U
+ fw=1.45e-07 sa=1.6e-07 sb=8.4e-07 sca=9.00614 scb=0.00733335 scc=0.00015104
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.04567P	PD=0.61U	PS=0.92U
+ fw=1.45e-07 sa=5.2e-07 sb=4.8e-07 sca=9.00614 scb=0.00733335 scc=0.00015104
Mmn5	Mmn3:d	Mmn5:g	Mmn5:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=7.25e-07 sb=2.75e-07 sca=9.00614 scb=0.00733335 scc=0.00015104
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.03485P	PD=0.41U	PS=0.8U
+ fw=1.45e-07 sa=8.3e-07 sb=1.7e-07 sca=9.00614 scb=0.00733335 scc=0.00015104
Mmn6	Mmn6:d	Mmn6:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0203P	PD=0.41U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=2.45e-07 sca=7.00131 scb=0.00386446 scc=3.38236e-05
Mmn7	Mmn7:d	Mmn7:g	Mmn7:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0087P	PD=0.57U	PS=0.41U
+ fw=1.45e-07 sa=2.45e-07 sb=1.4e-07 sca=7.00131 scb=0.00386446 scc=3.38236e-05
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.029P	PD=0.57U	PS=0.69U
+ fw=1.45e-07 sa=1.4e-07 sb=4.05e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0232P	AS=0.029P	PD=0.61U	PS=0.69U
+ fw=1.45e-07 sa=3.85e-07 sb=1.6e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmp57	Mmp57:d	Mmp57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03762P	AS=0.05515P	PD=0.78U	PS=1.45U
+ fw=2.15e-07 sa=1.75e-07 sb=3.35e-07 sca=49.7297 scb=0.0332192 scc=0.00593869
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.05515P	PD=0.71U	PS=1.45U
+ fw=2.15e-07 sa=3.7e-07 sb=1.4e-07 sca=47.2218 scb=0.0292973 scc=0.00588575
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.05805P	PD=0.71U	PS=1.51U
+ fw=2.15e-07 sa=1.4e-07 sb=3.4e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03117P	AS=0.05805P	PD=0.72U	PS=1.51U
+ fw=2.15e-07 sa=3.35e-07 sb=1.45e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0387P	AS=0.043P	PD=0.79U	PS=0.83U
+ fw=2.15e-07 sa=1.8e-07 sb=2e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.043P	PD=0.55U	PS=0.83U
+ fw=2.15e-07 sa=4.25e-07 sb=1.975e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp51	Mmp51:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0387P	AS=0.0129P	PD=0.79U	PS=0.55U
+ fw=2.15e-07 sa=5.3e-07 sb=1.87e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp40	Mmp51:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0387P	AS=0.06558P	PD=0.79U	PS=1.04U
+ fw=2.15e-07 sa=7.55e-07 sb=1.645e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp30	Mmp40:s	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.06558P	AS=0.0935P	PD=1.04U	PS=1.64U
+ fw=2.15e-07 sa=1.105e-06 sb=1.295e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.0935P	PD=0.55U	PS=1.64U
+ fw=2.15e-07 sa=1.37e-06 sb=1.03e-06 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.06342P	AS=0.0129P	PD=1.02U	PS=0.55U
+ fw=2.15e-07 sa=1.475e-06 sb=9.25e-07 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp26	Mmp36:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.06342P	AS=0.02902P	PD=1.02U	PS=0.7U
+ fw=2.15e-07 sa=1.815e-06 sb=5.85e-07 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02902P	AS=0.0935P	PD=0.7U	PS=1.64U
+ fw=2.15e-07 sa=1.995e-06 sb=4.05e-07 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0935P	PD=0.71U	PS=1.64U
+ fw=2.15e-07 sa=2e-06 sb=1.4e-07 sca=15.2551 scb=0.0150251 scc=0.000885438
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.04085P	AS=0.07638P	PD=0.81U	PS=1.87U
+ fw=2.15e-07 sa=1.9e-07 sb=8.1e-07 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.07638P	PD=0.75U	PS=1.87U
+ fw=2.15e-07 sa=4.5e-07 sb=5.5e-07 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp5	Mmp5:d	Mmp5:g	Mmp3:d	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0344P	PD=0.75U	PS=0.75U
+ fw=2.15e-07 sa=6.55e-07 sb=3.45e-07 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp4	Mmp5:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=8.6e-07 sb=1.4e-07 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp6	Mmp6:d	Mmp6:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.03548P	PD=0.71U	PS=0.76U
+ fw=2.15e-07 sa=1.4e-07 sb=3.6e-07 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp7	Mmp7:d	Mmp7:g	Mmp6:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03225P	AS=0.03548P	PD=0.73U	PS=0.76U
+ fw=2.15e-07 sa=3.5e-07 sb=1.5e-07 sca=20.4333 scb=0.0198015 scc=0.00193653
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0923P	PD=0.71U	PS=1.62U
+ fw=2.15e-07 sa=1.4e-07 sb=4.05e-07 sca=47.1147 scb=0.0291776 scc=0.00588536
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0923P	PD=0.71U	PS=1.62U
+ fw=2.15e-07 sa=4.05e-07 sb=1.4e-07 sca=51.1829 scb=0.0357894 scc=0.00602791
.ENDS
.END
