*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:25:32 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "INVX1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  INVX1 Y A
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Y 7.00157e-17
*|P (Y X 0 0.2900 0.7600)
*|I (Mmn0:d Mmn0 d X 0 0.2900 0.5000)
*|I (Mmp0:d Mmp0 d X 0 0.2900 1.0950)
C1 Mmp0:d VSS 1.46563e-17
C2 Mmn0:d VSS 2.2502e-17
C3 Y VSS 3.28574e-17
Rk1 Y Mmn0:d 37.680229 $W=0.09
Rk2 Mmp0:d Y 20.891123 $W=0.09
*
*|NET A 1.29547e-16
*|P (A X 0 0.0900 0.7600)
*|I (Mmn0:g Mmn0 g X 0 0.1975 0.5000)
*|I (Mmp0:g Mmp0 g X 0 0.1975 1.0950)
*|S (A:2 0.1975 0.7300)
*|S (A:3 0.1300 0.7300)
*|S (A:5 0.0905 0.7450)
*|S (A:6 0.1300 0.7450)
C4 Mmp0:g VSS 2.81441e-17
C5 Mmn0:g VSS 2.218e-17
C6 A:6 VSS 3.84109e-17
C7 A:2 VSS 1.03435e-17
C8 A:3 VSS 1.24771e-17
C9 A VSS 1.79915e-17
Rl3 A:2 A:3 47.766560 $W=0.094
Rl4 A:2 Mmn0:g 34.329510 $W=0.039
Rl5 Mmp0:g A:2 61.252586 $W=0.039
Rk6 A:5 A 0.006551 $W=0.1435
Rk7 A:3 A:6 0.006551 $W=0.1435
Rk8 A:5 A:6 0.011818 $W=0.21
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.06435P	PD=0.8U	PS=1.46U
+ fw=2.6e-07 sa=1.35e-07 sb=1.4e-07 sca=14.4034 scb=0.0144248 scc=0.00102063
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.0884P	PD=1.06U	PS=1.82U
+ fw=3.9e-07 sa=1.35e-07 sb=1.4e-07 sca=58.4044 scb=0.0588257 scc=0.00629162
.ENDS
.END
